US07732446B1
A solution of (6,7-dimethoxy-4-thioureido-isoquinolin-1-ylmethyl)carbamic acid tert-butyl ester (50 mg, 0.127 mmol) and chloroacetone (13.0 mg, 0.140 mmol) in acetone (1.4 mL) in a conical vial was added MgSO4 (7.7 mg, 0.0637 mmol). The resulting suspension was placed in an aluminum block preheated to 60° C. and was allowed to stir for 20 h. The reaction was cooled and concentrated. The residue was purified using a 5 g silica cartridge (MeOH/CH2Cl2, 2:98) to give [6,7-dimethoxy-4-(4-methyl-thiazol-2-ylamino)isoquinolin-1-ylmethyl]carbamic acid tert-butyl ester as a yellow solid (17.4 mg; 32%). MS: calculated for C21H26N4O4S+H 431.0; found: 431.0.

reactant | (6,7-dimethoxy-4-thioureido-isoquinolin-1-ylmethyl)carbamic acid tert-butyl ester | 0.127 mmol, 50 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)NC(=S)N)=O | C18H24N4O4S
reactant | chloroacetone | 0.140 mmol, 13.0 mg | ClCC(C)=O | C3H5ClO
reactant | MgSO4 | 0.0637 mmol, 7.7 mg | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | aluminum | [Al] | Al
solvent | acetone | 1.4 mL | CC(=O)C | C3H6O
product | [6,7-dimethoxy-4-(4-methyl-thiazol-2-ylamino)isoquinolin-1-ylmethyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)NC=1SC=C(N1)C)=O | C21H26N4O4S
